US09382231B2
Step 1: tert-Butyl 3-(cyanomethyl)-3-[3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate
A mixture of 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.06 g, 5.10 mmol), tert-butyl 3-(cyanomethylene)azetidine-1-carboxylate (1.00 g, 5.15 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.38 mL, 2.6 mmol) in acetonitrile (20 mL) was heated at 60° C. for 2 h. After cooling, the solvent was removed under reduced pressure. The residue was purified by flash chromatography on a silica gel column eluting with ethyl acetate in hexanes (0-60%) to afford the desired product. LCMS cacld. for C16H24BN4O4 (M−55)+: m/z=347.2. Found: 347.1.

reactant | 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 5.10 mmol, 1.06 g | CC1=NNC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | tert-butyl 3-(cyanomethylene)azetidine-1-carboxylate | 5.15 mmol, 1.00 g | C(#N)C=C1CN(C1)C(=O)OC(C)(C)C | C10H14N2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.6 mmol, 0.38 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | tert-Butyl 3-(cyanomethyl)-3-[3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate | C(#N)CC1(CN(C1)C(=O)OC(C)(C)C)N1N=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C | C20H31BN4O4
